US07842688B2
b) Benzyl 4-[4-(2,2-difluoro-3-phenoxypropoxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 0.260 g of benzyl 4-[4-(2,2-difluoro-3-phenoxypropoxy)phenyl]-3-hydroxypiperidine-1-carboxylate and 0.185 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as a yellow oil. Rf=0.25 (1:1 EtOAc-heptane); Rt=5.67.

reactant | benzyl 4-[4-(2,2-difluoro-3-phenoxypropoxy)phenyl]-3-hydroxypiperidine-1-carboxylate | 0.260 g | FC(COC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)O)(COC1=CC=CC=C1)F | C28H29F2NO5
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 0.185 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16ClNO3
product | Benzyl 4-[4-(2,2-difluoro-3-phenoxypropoxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | FC(COC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1)(COC1=CC=CC=C1)F | C41H44F2N2O8
